data/rdb19/train.csv
rxn,smiles,ea
1519,[C:10]([C:11]([C:12]([H:13])[H:14])([O:15][C:16](=[O:17])[C:18]([H:23])([H:24])[H:25])[H:22])([H:19])([H:20])[H:21].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[C:10]([C:11](=[C:12]([H:13])[H:14])[O:15][C:16](=[O:17])[C:18]([H:23])([H:24])[H:25])([H:19])([H:20])[H:21].[O:1]([C:2]([O:3][H:22])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6],34.30069509171881
189,[C:12]([C:13]([C:14]([C:15]([H:25])([H:26])[H:27])([N:16]([C:17](=[O:18])[H:29])[H:28])[H:24])([H:22])[H:23])([H:19])([H:20])[H:21].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]#[N:5])[C:14]([C:13]([C:12]([H:19])([H:20])[H:21])([H:22])[H:23])([C:15]([H:25])([H:26])[H:27])[H:24])([H:6])([H:7])[H:8].[N:16]([C:17](=[O:18])[H:29])[H:28],73.96471583633684
4986,[C:15](=[C:16]([N:17]([C:18](=[O:19])[H:24])[H:23])[H:22])([H:20])[H:21].[C:1]([C:2]([C:3]([H:4])[O:5][C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:4])[O:5][C:6]([H:12])([H:13])[H:14])[H:10])([H:7])([H:8])[H:9].[H:11][O:19][C:18]([N:17]([C:16](=[C:15]([H:20])[H:21])[H:22])[H:23])[H:24],37.88433173618978
317,[C:4]([O:5][C:6](=[O:7])[C:8](=[C:9]([H:14])[H:15])[C:10]([H:16])([H:17])[H:18])([H:11])([H:12])[H:13].[O:1]([O:2])[H:3]>>[O:1][H:3].[O:2]1[C:6]([O:5][C:4]([H:11])([H:12])[H:13])([C:8](=[C:9]([H:14])[H:15])[C:10]([H:16])([H:17])[H:18])[O:7]1,69.24915459332988
4408,[C:13]([C:14]([C:15]([C:16]([H:25])([H:26])[H:27])[C:17](=[O:18])[O:19][H:28])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:10])[H:11])([C:4](=[O:5])[O:6][H:12])[C:15]([C:14]([C:13]([H:20])([H:21])[H:22])([H:23])[H:24])([C:16]([H:25])([H:26])[H:27])[C:17](=[O:18])[O:19][H:28])([H:7])([H:8])[H:9],24.491016003885303
3937,[C:13]([C:14]([C:15]([H:16])[N:17]([C:18](=[O:19])[H:26])[H:25])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([C:2]([C:3]=[C:4]([H:11])[H:12])([H:8])[H:9])([H:5])([H:6])[H:7].[H:10][C:15]([C:14]([C:13]([H:20])([H:21])[H:22])([H:23])[H:24])([H:16])[N:17]([C:18](=[O:19])[H:26])[H:25],28.00327023654245
398,[C:4](=[C:5]([N:6]([C:7](=[O:8])[H:13])[H:12])[H:11])([H:9])[H:10].[O:1]([O:2])[H:3]>>[O:1]([O:2][C:4]([C:5]([N:6]([C:7](=[O:8])[H:13])[H:12])[H:11])([H:9])[H:10])[H:3],17.85063909884775
1443,[C:14](=[O:15])[O:16][H:25].[O:1]([H:6])[C:12]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])([C:11]([C:10]([H:17])([H:18])[H:19])([H:20])[H:21])[C:13]([H:22])([H:23])[H:24]>>[C:2](=[O:3])([C:4](=[C:5]([H:8])[H:9])[H:7])[C:12]([C:11]([C:10]([H:17])([H:18])[H:19])([H:20])[H:21])([C:13]([H:22])([H:23])[H:24])[C:14](=[O:15])[O:16][H:25].[O:1][H:6],65.87558791122865
1023,[C:14]([C:15](=[C:16]([H:23])[H:24])[C:17](=[O:18])[O:19][H:25])([H:20])([H:21])[H:22].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:15](=[C:16]([H:23])[H:24])[C:17](=[O:18])[O:19][H:25].[C:1]([C:2]([C:3]([H:4])([H:5])[C:14]([H:20])([H:21])[H:22])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11],61.90890885971021
5502,[C:13]([C:14]([C:15]([H:16])[H:17])([O:18][C:19](=[O:20])[C:21]([H:26])([H:27])[H:28])[H:25])([H:22])([H:23])[H:24].[C:1]([C:2](=[O:3])[O:4][C:5](=[C:6]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:13]([C:14](=[C:15]([H:16])[H:17])[O:18][C:19](=[O:20])[C:21]([H:26])([H:27])[H:28])([H:22])([H:23])[H:24].[C:1]([C:2](=[O:3])[O:4][C:5]([C:6]([H:11])[H:12])([H:10])[H:25])([H:7])([H:8])[H:9],39.15569540648721
3200,[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21]([O:22][C:23]([C:24]([H:32])([H:33])[H:34])([C:25]([H:26])[H:27])[H:31])([H:28])([H:29])[H:30]>>[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:6]([H:18])([H:19])[H:20])[C:25]([C:23]([O:22][C:21]([H:28])([H:29])[H:30])([C:24]([H:32])([H:33])[H:34])[H:31])([H:26])[H:27])([H:10])[H:11])([H:7])([H:8])[H:9].[C:5]([H:15])([H:16])[H:17],85.16360248619458
2072,[C:11]([C:12]([C:13]([C:14]([H:23])([H:24])[H:25])[C:15](=[O:16])[O:17][H:26])([H:21])[H:22])([H:18])([H:19])[H:20].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[C:11]([C:12](=[C:13]([C:14]([H:23])([H:24])[H:25])[C:15](=[O:16])[O:17][H:26])[H:22])([H:18])([H:19])[H:20].[N:1]([C:2](=[O:3])[C:4]([C:5]([H:9])([H:10])[H:21])[H:8])([H:6])[H:7],32.511273066396825
1535,[O:1]([C:2]([O:3])([C:4](=[C:5]([H:8])[H:9])[H:7])[C:12]([C:11]([C:10]([H:18])([H:19])[H:20])([H:21])[H:22])([H:13])[O:14][C:15](=[O:16])[C:17]([H:23])([H:24])[H:25])[H:6]>>[C:4](=[C:5]([H:8])[H:9])[H:7].[O:1]([C:2](=[O:3])[C:12]([C:11]([C:10]([H:18])([H:19])[H:20])([H:21])[H:22])([H:13])[O:14][C:15](=[O:16])[C:17]([H:23])([H:24])[H:25])[H:6],12.115069778694306
